US03933799
21-Acetoxy-11β-chloro-16β-methyl-17-propionyloxypregna-1,4-diene-3,20-dione
A solution of 11β-chloro-21-hydroxy-16β-methyl-17-propionyloxypregna-1,4-diene-3,20-dione (75 mg) in pyridine (1 ml) was treated with acetic anhydride (0.2 ml) at room temperature. After 3 hours water (0.4 ml) was added and the solution was poured into dilute by hydrochloric acid. The precipitated solid was removed by filtration and after drying was recrystallized from methanol to give the title compound, m.p. 212°-213°(K), [α]D + 101.1° (c 0.6 chloroform). λmax 239 nm (ε 16,280) (Found: C, 65.7; H, 7.0; Cl, 6.8. C27H35ClO6 requires C, 66.0; H, 7.2, Cl, 7.2%).

reactant | 11β-chloro-21-hydroxy-16β-methyl-17-propionyloxypregna-1,4-diene-3,20-dione | 75 mg | Cl[C@@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2C[C@@H]([C@](C(CO)=O)([C@]2(C1)C)OC(CC)=O)C)=O)C | C25H33ClO5
reactant | acetic anhydride | 0.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 0.4 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 21-Acetoxy-11β-chloro-16β-methyl-17-propionyloxypregna-1,4-diene-3,20-dione | C(C)(=O)OCC([C@]1([C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)Cl)=O)C)OC(CC)=O)=O | C27H35ClO6
